US06251925B1
(R)-3′-[[2-[(2-Hydroxy-3-phenoxypropyl)amino]ethyl]amino]-[1,1′-biphenyl]-3-carboxylic acid methyl ester as a reddish oil (37 mg);
Electrospray MS (positive ion): (M+H) 421.1; from methyl-3′-[(2-aminoethyl)amino]-[1,1′-biphenyl]-3-carboxylate (117 mg) and (R)-(-)-3-(phenyloxy)-1,2-epoxypropane (54 mg).

reactant | methyl-3′-[(2-aminoethyl)amino]-[1,1′-biphenyl]-3-carboxylate | 117 mg | COC(=O)C=1C=C(C=CC1)C1=CC(=CC=C1)NCCN | C16H18N2O2
reactant | (R)-(-)-3-(phenyloxy)-1,2-epoxypropane | 54 mg | C1(=CC=CC=C1)OC[C@H]1CO1 | C9H10O2
product | (R)-3′-[[2-[(2-Hydroxy-3-phenoxypropyl)amino]ethyl]amino]-[1,1′-biphenyl]-3-carboxylic acid methyl ester | COC(=O)C=1C=C(C=CC1)C1=CC(=CC=C1)NCCNC[C@H](COC1=CC=CC=C1)O | C25H28N2O4
